US04036842
3,4-Dihydro-N,N-dimethyl-1H-[1]benzothieno[2,3-c]pyran-1-ethylamine
A mixture of 3,4-dihydro-1H-[1]benzothieno[2,3-c]-pyran-1-ethyl chloride (6.0 g), described in Example 35, dioxane (50 ml), and 40% aqueous dimethylamine (50 ml) is heated on a steam bath for 3 hr. The mixture is evaporated, diluted with 10% hydrochloric acid and washed with ether. The free base is then liberated from the aqueous phase by the addition of 5% sodium hydroxide soln. and taken up in ether. The ether phase is dried and concentrated to yield the title compound, nmr (CDCl3) δ 2.80 and 4.13.

reactant | 3,4-dihydro-1H-[1]benzothieno[2,3-c]-pyran 1-ethyl chloride | 6.0 g | C1OCCC2=C1SC1=C2C=CC=C1.C(C)Cl
reactant | dimethylamine | 50 ml | CNC | C2H7N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3,4-Dihydro-N,N-dimethyl-1H-[1]benzothieno[2,3-c]pyran-1-ethylamine | CN(CCC1OCCC2=C1SC1=C2C=CC=C1)C | C15H19NOS
